US08168666B2
Preparation of 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-(2-methylpropyl)-6-propylphenol
[1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium (II) (0.49 g), copper (I) iodide (3.9 mg) and a solution of diisobutylzinc bromide in tetrahydrofuran (0.5 mol/L, 1.3 mL) were added to a solution of 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-iodo-6-propylphenol (123 mg, 260 μmol) in tetrahydrofuran (2 mL) in an argon atmosphere at room temperature, followed by stirring overnight. After completion of the reaction, 2 mol/L hydrochloric acid was added. Then, the reaction solution was extracted with ethyl acetate-water, and the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain 66 mg of the title compound (yield: 63%) as a colorless oil.

reactant | diisobutylzinc bromide | [Br-].C(C(C)C)[Zn]CC(C)C
reactant | 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-iodo-6-propylphenol | 260 μmol, 123 mg | FC(C(C(F)(F)F)(OCOC)C1=CC(=C(C(=C1)CCC)O)I)(F)F | C14H15F6IO3
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | tetrahydrofuran | 0.5 mol/L, 1.3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 0.49 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | copper (I) iodide | 3.9 mg | [Cu]I
product | 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-(2-methylpropyl)-6-propylphenol | 66 mg, yield: 63% | FC(C(C(F)(F)F)(OCOC)C1=CC(=C(C(=C1)CCC)O)CC(C)C)(F)F | C18H24F6O3
